US07435823B2
6-(1H-Pyrazolo[3,4-b]pyridin-4-yloxy)naphthalen-1-amine (25 mg, 0.09 mmol), 4-chlorobenzoic acid (16 mg, 0.10 mmol) and TBTU (35 mg, 0.108 mmol) were dissolved in DMF (0.75 mL). Hunig's base (18 mg, 0.14 mmol) was then added and the reaction mixture was stirred at RT for 16 h. Additional 4-chlorobenzoic acid (6 mg, 0.036 mmol) and TBTU (12 mg, 0.036 mmol) were added to the reaction and stirring was continued for 3 days. The reaction mixture was concentrated in vacuo. The remaining dark brown residue was purified by silica gel chromatography (0% to 2% MeOH in DCM) to yield 4-chloro-N-(6-(1H-pyrazolo[3,4-b]pyridin-4-yloxy)-1-naphthalenyl)benzamide as an off-white solid. MS (ESI, pos. ion) m/z: 415.0 (M+1). MS (ESI pos. ion) m/z: 415.0 (M+H). Calc'd for C23H15ClN4O2-414.85.

reactant | 6-(1H-Pyrazolo[3,4-b]pyridin-4-yloxy)naphthalen-1-amine | 0.09 mmol, 25 mg | N1N=CC=2C1=NC=CC2OC=2C=C1C=CC=C(C1=CC2)N | C16H12N4O
reactant | 4-chlorobenzoic acid | 0.10 mmol, 16 mg | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | TBTU | 0.108 mmol, 35 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | Hunig's base | 0.14 mmol, 18 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-chlorobenzoic acid | 0.036 mmol, 6 mg | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | TBTU | 0.036 mmol, 12 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 0.75 mL | CN(C)C=O | C3H7NO
product | 4-chloro-N-(6-(1H-pyrazolo[3,4-b]pyridin-4-yloxy)-1-naphthalenyl)benzamide | ClC1=CC=C(C(=O)NC2=CC=CC3=CC(=CC=C23)OC2=C3C(=NC=C2)NN=C3)C=C1 | C23H15ClN4O2
